US06632810B2
Synthesis of ethyl 3,4,5-trimethoxyoxanilate:
3,4,5-Trimethoxyaniline (3.0 g) and triethylamine (4.5 mL) were dissolved in dichloromethane (10 mL), ethyl chloroglyoxylate (1.89 mL) was added dropwise to the solution under ice cooling, and the mixture was stirred for 2 hours. 1 M Hydrochloric acid was added to the reaction mixture to conduct extraction with dichloromethane. The resultant organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain the title compound.

reactant | 3,4,5-Trimethoxyaniline | 3.0 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | triethylamine | 4.5 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroglyoxylate | 1.89 mL | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | Hydrochloric acid | 1 M | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | ethyl 3,4,5-trimethoxyoxanilate | COC=1C=C(NC(C(=O)OCC)=O)C=C(C1OC)OC | C13H17NO6
